US06608062B1
a) 3-Methyl-6-phenyl-[1,2,4]triazine-4-oxide
To a solution of hydrazono-phenyl-acetaldehyde oxime (28 g, 168 mmol) at room temperature under nitrogen in dichloromethane (300 ml) was added trimethyl orthoacetate (19 ml, 168 mmol) and p-toluenesulfonic acid (1.6 g, 8.4 mmol). The reaction mixture was stirred for 18 h and then concentrated in vacuo. Xylene (300 ml) was added followed by trimethyl orthoacetate (19 ml, 168 mmol) and the mixture heated to 130° C. for 2 h. The reaction mixture was evaporated in vacuo. The residue was purified by flash chromatography (SiO2; 50% EtOAc in hexanes) and the product was recrystallised from a mixture of dichloromethane and ethyl acetate to afford the title compound as a white solid (11.5 g). δH (400 MHz; CDCl3) 2.86 (3H, s), 7.57 (3H, m), 7.99 (2H, m), 8.52 (1H, s). m/z (ES+) 188 (M+1).

reactant | hydrazono-phenyl-acetaldehyde oxime | 168 mmol, 28 g | N(N)=C(C=NO)C1=CC=CC=C1 | C8H9N3O
reactant | trimethyl orthoacetate | 168 mmol, 19 ml | C(C)(OC)(OC)OC | C5H12O3
reactant | p-toluenesulfonic acid | 8.4 mmol, 1.6 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | trimethyl orthoacetate | 168 mmol, 19 ml | C(C)(OC)(OC)OC | C5H12O3
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 3-Methyl-6-phenyl-[1,2,4]triazine-4-oxide | 11.5 g | CC=1N=NC(=C[N+]1[O-])C1=CC=CC=C1 | C10H9N3O
